US06949542B2
3-[3-(6-Methoxy-pyridazin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-(6-methoxy-pyridazin-3-yl)-benzoic acid methyl ester [prepared by the following procedure: A mixture of 3-carboxyphenyl-boronic acid (7.11 g, 42.8 mmol) and 3-chloro-6-methoxy-pyridazine [CAS-No. 1722-10-7] (6.19 g, 42.8 mmol) in acetonitrile (212 mL) and 0.4M Na2CO3-solution (212 mL) was degassed and Pd(Ph3P)4 (2.47 g, 5 mol %) was added. The reaction mixture was refluxed for 16 h, evaporated to dryness (cf. Synlett 2000, 829). The residue was suspended in MeOH (630 mL) and SOCl2 (15.5 mL, 214.1 mmol) was added dropwise at 23° C. and the reaction mixture was refluxed for 4 h. Evaporated to dryness, taken up in EtOAc, washed with sat. NaHCO3-solution and brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown oil, which was purified by silica gel column chromatography with cyclohexane/EtOAc.] (5.41 g, 22.15 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a yellow oil (6.39 g).

reactant | 3-(6-methoxy-pyridazin-3-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1N=NC(=CC1)OC)=O | C13H12N2O3
reactant | 3-carboxyphenyl-boronic acid | 42.8 mmol, 7.11 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 3-chloro-6-methoxy-pyridazine | 42.8 mmol, 6.19 g | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | SOCl2 | 214.1 mmol, 15.5 mL | O=S(Cl)Cl | Cl2OS
solvent | acetonitrile | 212 mL | C(C)#N | C2H3N
solvent | Na2CO3 | 0.4M, 212 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-[3-(6-Methoxy-pyridazin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N=NC(=CC1)OC)=O | C18H20N2O4
